### PR TITLE
[MCS] revert notification binding changes

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This PR updates the aspec, ainvs, haskell, and refine proofs to properly re-sync the `rt` branch with `master` with respect to `maybe_return_sc`: both in its contents, and where it is called.

### CODE REVIEW

**Comment by lsf37** [comment]
You can mark PR's that shouldn't be merged/reviewed yet as draft ("convert to draft" under the reviewers). Makes it easier to see where input is required.

File: spec/haskell/src/SEL4/Kernel/Thread.lhs [hunk 1]
```diff
@@ -356,7 +356,7 @@ We check here that the candidate has the highest priority in the system.
 >
 >             idleThread <- getIdleThread
 >             targetPrio <- threadGet tcbPriority candidate
->             curPrio <- threadGet tcbPriority curThread
+>             curPrio <- if (idleThread == curThread) then (return 0) else (threadGet tcbPriority curThread)
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Kernel/Thread.lhs:359]:
```suggestion
>             curPrio <- if idleThread == curThread then return 0 else threadGet tcbPriority curThread
```
(none of the parens are needed)

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 2]
```diff
@@ -686,6 +686,8 @@ This module uses the C preprocessor to select a target architecture.
 >         scPtr <- return $ fromJust nscOpt
 >         sc <- getSchedContext scPtr
 >         setSchedContext scPtr (sc { scTCB = Nothing })
+>         ct <- getCurThread
+>         when (tcbPtr == ct) $ rescheduleRequired()
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:690]:
```suggestion
>         when (tcbPtr == ct) $ rescheduleRequired
```

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 3]
```diff
@@ -1086,6 +1086,200 @@ lemma reply_push_sender_sc_Some_invs:
                    elim: if_live_then_nonz_capD2)
   done
 
+crunches maybe_return_sc
+  for pspace_aligned[wp]: pspace_aligned
+  and pspace_distinct[wp]: pspace_distinct
+  and arch_state[wp]: "\<lambda>s. P (arch_state s)"
+  (simp: get_sk_obj_ref_def get_simple_ko_def get_object_def wp: weak_if_wp)
+
+lemma maybe_return_sc_valid_objs[wp]:
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/IpcDet_AI.thy:1095]: Can we crunch many of these?

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 4]
```diff
@@ -1086,6 +1086,200 @@ lemma reply_push_sender_sc_Some_invs:
...
+   \<Longrightarrow> (\<And>a P. f \<lbrace>reply_sc_reply_at P a \<rbrace>)
+   \<Longrightarrow> f \<lbrace>receive_ipc_preamble_rv reply reply_opt\<rbrace>"
+  by (case_tac reply_opt; wpsimp wp: hoare_vcg_conj_lift; assumption)
+
+lemma maybe_return_sc_fault_tcbs_valid_states[wp]:
+  "maybe_return_sc y thread \<lbrace>fault_tcbs_valid_states\<rbrace>"
+  unfolding fault_tcbs_valid_states_def
+  by (wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift' maybe_return_sc_pred_tcb_at)
+
+(* FIXME RT: rename during cleanup *)
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/IpcDet_AI.thy:1223]: Fix this.

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 5]
```diff
@@ -1086,6 +1086,200 @@ lemma reply_push_sender_sc_Some_invs:
...
+
+lemma reschedule_required_cur_sc_tcb':
+  "\<lbrace>\<lambda>s. sc_tcb_sc_at \<top> (cur_sc s) s\<rbrace> reschedule_required \<lbrace>\<lambda>_. cur_sc_tcb\<rbrace>"
+  supply set_scheduler_action_cur_sc_tcb [wp del]
+  unfolding reschedule_required_def
+  by (wpsimp simp: reschedule_required_def set_scheduler_action_def tcb_sched_action_def
+                   set_tcb_queue_def get_tcb_queue_def thread_get_def is_schedulable_def
+                   cur_sc_tcb_def sc_tcb_sc_at_def obj_at_def)
+
+lemma maybe_return_sc_fault_tcbs_valisdfd_states[wp]:
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/IpcDet_AI.thy:1250]: rename

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 6]
```diff
@@ -1109,16 +1304,27 @@ lemma ri_invs[wp]:
    apply (wpsimp wp: receive_ipc_preamble_invs receive_ipc_preamble_caps_of_state
                      receive_ipc_preamble_st_tcb_at receive_ipc_preamble_rv
                simp: ex_nonz_cap_to_def cte_wp_at_caps_of_state)
+  apply (fastforce)
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/IpcDet_AI.thy:1307]: Remove brackets

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 7]
```diff
@@ -2570,20 +2608,18 @@ lemma maybe_return_sc_schedule_tcb_helper2:
...
    do
      _ <- maybe_return_sc ntfn_ptr tcb_ptr;
      schedule_tcb tcb_ptr
    od
    \<lbrace>\<lambda>_. invs\<rbrace>"
   apply (rule hoare_seq_ext[OF schedule_tcb_invs'])
-  apply (simp add: maybe_return_sc_def)
-  apply (rule hoare_seq_ext[OF _ gsc_ntfn_sp])
-  apply (rule hoare_seq_ext[OF _ gsc_sp])
-  apply (wpsimp wp: hoare_vcg_disj_lift maybe_return_sc_schedule_tcb_helper1
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/IpcDet_AI.thy:2583]: These deleted functions are now not needed?

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 8]
```diff
@@ -1086,6 +1086,200 @@ lemma reply_push_sender_sc_Some_invs:
                    elim: if_live_then_nonz_capD2)
   done
 
+crunches maybe_return_sc
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/IpcDet_AI.thy:1089]: Large parts of this block were merely moved from lemmas below.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 9]
```diff
@@ -12804,6 +12804,67 @@ lemma set_thread_state_pred_map_eq[wp]:
   "\<lbrace>\<top>\<rbrace> set_thread_state t st \<lbrace>\<lambda>_ s. pred_map_eq st (tcb_sts_of s) t\<rbrace>"
   by (wpsimp wp: valid_sched_wp simp: vs_all_heap_simps)
 
+crunches schedule_tcb
+  for valid_sched[wp]: valid_sched
+  (wp: reschedule_valid_sched_const)
+
+crunches maybe_return_sc
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:12811]: Merge up to IPC crunches

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 10]
```diff
@@ -21232,6 +21276,8 @@ method cur_sc_in_release_q_imp_zero_consumed_syscall_combined
       , rule invs_strengthen_cur_sc_tcb_are_bound, blast
       , clarsimp simp: vs_all_heap_simps)
 
+find_theorems scheduler_act_sane schact_is_rct
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:21279]: remove find_theorems

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 11]
```diff
@@ -21136,7 +21178,9 @@ lemma handle_recv_cur_sc_in_release_q_imp_zero_consumed[wp]:
         \<and> invs s
         \<and> cur_sc_more_than_ready s
         \<and> current_time_bounded (Suc 0) s
-        \<and> ct_not_in_release_q s\<rbrace>
+        \<and> ct_not_in_release_q s \<and>
+              scheduler_act_sane s \<and>
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:21182]: indentation

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 12]
```diff
@@ -21089,32 +21138,25 @@ lemma reply_push_cur_sc_in_release_q_imp_zero_consumed[wp]:
...
    \<lbrace>\<lambda>_. cur_sc_in_release_q_imp_zero_consumed :: det_state \<Rightarrow> _\<rbrace>"
   unfolding receive_ipc_def
-  apply wpsimp
+  apply (wpsimp wp: thread_get_wp')
                 apply (wpsimp wp: hoare_vcg_all_lift hoare_drop_imp)
                apply (wpsimp wp: hoare_vcg_all_lift hoare_drop_imp)
-              apply wpsimp
              apply (wpsimp wp: gts_wp)
-            apply (rule_tac Q="\<lambda>_. cur_sc_in_release_q_imp_zero_consumed and valid_release_q"
+            apply (rule_tac Q="\<lambda>_ s. cur_sc_in_release_q_imp_zero_consumed s \<and> valid_release_q s"
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:21150]: undo this change

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 13]
```diff
@@ -13018,6 +13079,20 @@ crunches receive_ipc_preamble, refill_unblock_check
...
+lemma fhfhfhhfh[wp]:
+  "\<lbrace>not_queued thread
+    and scheduler_act_sane\<rbrace>
+   maybe_return_sc y thread
+   \<lbrace>\<lambda>rv. not_queued thread\<rbrace>"
+  unfolding maybe_return_sc_def
+  by (wpsimp wp: reschedule_required_not_queued get_tcb_obj_ref_wp get_sk_obj_ref_wp)
+
+crunches maybe_return_sc
+  for release_queue[wp]: "\<lambda>s. P (release_queue s)"
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:13091]: Potentially move up some these crunches to IPC.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 14]
```diff
@@ -13018,6 +13079,20 @@ crunches receive_ipc_preamble, refill_unblock_check
   and cur_time[wp]: "\<lambda>s. P (cur_time s)"
   (wp: crunch_wps)
 
+lemma fhfhfhhfh[wp]:
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:13082]: rename

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 15]
```diff
@@ -12804,6 +12804,67 @@ lemma set_thread_state_pred_map_eq[wp]:
...
+   sorted_release_q_2 (\<lambda>a. if a = tptr then None else tcb_sc_refill_cfgs_of s a) (release_queue s)
+   = sorted_release_q_2 (tcb_sc_refill_cfgs_of s) (release_queue s)"
+  by (rule sorted_release_q_2_eq_lift, clarsimp simp: in_release_q_def sc_ready_times_upd)
+
+lemma maybe_return_sc_valid_sched[wp]:
+  "\<lbrace> valid_sched and scheduler_act_not tptr and not_queued tptr and not_in_release_q tptr\<rbrace>
+   maybe_return_sc ntfnptr tptr
+   \<lbrace> \<lambda>_. valid_sched\<rbrace>"
+  apply (simp add: maybe_return_sc_def assert_opt_def)
+find_theorems reschedule_required valid_sched
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:12842]: Clean up this proofs

File: proof/invariant-abstract/IpcDet_AI.thy (hunk 7 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/IpcDet_AI.thy:2583]: True, done.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 2 above)
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Cheers!

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 16]
```diff
@@ -12803,6 +12803,64 @@ lemma set_thread_state_pred_map_eq[wp]:
...
 
+crunches schedule_tcb
+  for valid_sched[wp]: valid_sched
+  (wp: reschedule_valid_sched_const)
+
+crunches maybe_return_sc
+  for etcbs_of[wp]: "\<lambda>s. P (etcbs_of s)"
+  (simp: wp: hoare_drop_imp hoare_vcg_if_lift2 ignore: set_tcb_obj_ref)
+
+(* FIXME: move somewhere appropriate *)
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:12814]:
```suggestion
(* FIXME RT: move somewhere appropriate *)
```

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 17]
```diff
@@ -12803,6 +12803,64 @@ lemma set_thread_state_pred_map_eq[wp]:
...
+lemma tcb_sc_refill_cfgs_upd:
+  "tcb_sc_refill_cfgs_2 (\<lambda>a. if a = tptr then Some None else tcb_scps_of s a) (sc_refill_cfgs_of s)
+   = (\<lambda>a. if a = tptr then None else tcb_sc_refill_cfgs_2 (tcb_scps_of s) (sc_refill_cfgs_of s) a)"
+  unfolding tcb_sc_refill_cfgs_2_def
+  by (fastforce simp: map_join_def vs_all_heap_simps opt_map_def)
+
+(* FIXME: move somewhere appropriate *)
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:12821]:
```suggestion
(* FIXME RT: move somewhere appropriate *)
```

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 18]
```diff
@@ -12803,6 +12803,64 @@ lemma set_thread_state_pred_map_eq[wp]:
...
+lemma sc_ready_times_upd:
+  "sc_ready_times_2 (\<lambda>a. if a = tptr then None else tcb_sc_refill_cfgs_of s a)
+   = (\<lambda>a. if a = tptr then None else sc_ready_times_2 (tcb_sc_refill_cfgs_of s) a)"
+  unfolding sc_ready_times_2_def
+  by (clarsimp simp: map_project_upd)
+
+(* FIXME: move somewhere appropriate, maybe rename *)
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:12828]:
```suggestion
(* FIXME RT: move somewhere appropriate, maybe rename *)
```

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 19]
```diff
@@ -21248,9 +21287,10 @@ lemma handle_event_cur_sc_in_release_q_imp_zero_consumed:
   apply (cases e; simp)
 
   subgoal for syscall
-    by (case_tac syscall; simp
+    apply (case_tac syscall; simp
         ; cur_sc_in_release_q_imp_zero_consumed_syscall_single?
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:21291]: The indent doesn't fit any more to the `apply` (previously `by`)

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 20]
```diff
@@ -21248,9 +21287,10 @@ lemma handle_event_cur_sc_in_release_q_imp_zero_consumed:
...
           , cur_sc_in_release_q_imp_zero_consumed_syscall_combined?) \<comment> \<open>takes 30 seconds or so\<close>
+    by fastforce+
```
Comment (lsf37) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:21293]: Since this has a `takes long` comment, I'd recommend to use the intial-method/final-method form of `by`, so that interactive proof progress isn't stuck at this point, i.e

```
by (case_tac ...; ..)
     fastforce+
```

File: spec/abstract/SchedContext_A.thy [hunk 21]
```diff
@@ -423,7 +423,9 @@ where
     when (nsc_opt = tsc_opt \<and> nsc_opt \<noteq> None) $ do
       sc_ptr \<leftarrow> assert_opt nsc_opt;
       set_tcb_obj_ref tcb_sched_context_update tcb_ptr None;
-      set_sc_obj_ref sc_tcb_update sc_ptr None
+      set_sc_obj_ref sc_tcb_update sc_ptr None;
+      ct \<leftarrow> gets cur_thread;
+      when (tcb_ptr = ct) $ reschedule_required
```
Comment (lsf37) [inline spec/abstract/SchedContext_A.thy:428]:
```suggestion
      when (tcb_ptr = ct) reschedule_required
```

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 22]
```diff
@@ -1096,7 +1270,8 @@ lemma ri_invs[wp]:
   "\<lbrace>\<lambda>s. invs s \<and> st_tcb_at active thread s
                \<and> ex_nonz_cap_to thread s
                \<and> (\<forall>r\<in>zobj_refs ep_cap. ex_nonz_cap_to r s)
-               \<and> (\<forall>r\<in>zobj_refs reply. ex_nonz_cap_to r s)\<rbrace>
+               \<and> (\<forall>r\<in>zobj_refs reply. ex_nonz_cap_to r s)
+               \<and> thread = cur_thread s\<rbrace>
```
Comment (lsf37) [inline proof/invariant-abstract/IpcDet_AI.thy:1274]: Since this lemma is `[wp]`: are we sure `thread = cur_thread s` is the only situation in which this function is used?

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 23]
```diff
@@ -1086,6 +1086,180 @@ lemma reply_push_sender_sc_Some_invs:
...
+  supply set_scheduler_action_cur_sc_tcb [wp del]
+  unfolding reschedule_required_def
+  by (wpsimp simp: reschedule_required_def set_scheduler_action_def tcb_sched_action_def
+                   set_tcb_queue_def get_tcb_queue_def thread_get_def is_schedulable_def
+                   cur_sc_tcb_def sc_tcb_sc_at_def obj_at_def)
+
+lemma maybe_return_sc_cur_sc_tcb[wp]:
+  "\<lbrace>cur_sc_tcb and (\<lambda>s. thread = cur_thread s)\<rbrace>
+    maybe_return_sc y thread
+   \<lbrace>\<lambda>_. cur_sc_tcb\<rbrace>"
```
Comment (mbrcknl) [inline proof/invariant-abstract/IpcDet_AI.thy:1233]: I guess this is where the new `thread = cur_thread s` precondition comes from in `ri_invs`.

I think it might be possible to remove this precondition, and replace it with `sym_refs`:
- If the `scheduler_action` is *not* `resume_cur_thread`, then the postcondition is satisfied as long as there is a scheduling context at `cur_sc`, which you get from the precondition. No problem here.
- If the `scheduler_action` *is* `resume_cur_thread`, and `thread` is `cur_thread`, then the `reschedul_required` means that the postcondition is similarly satisfied. Still no problem.
- But if the `scheduler_action` is `resume_cur_thread`, and `thread` is *not* `cur_thread`, then you would need some extra precondition to establish that the scheduling context that's updated is not the `cur_sc`. I think `sym_refs` would give you that, since you know that the `cur_sc` is bound to `cur_thread`, and `thread` is bound to the scheduling context that's updated, but `thread` is not `cur_thread`.

I can see why you did this, though: `maybe_return_sc` is only called from `receive_signal` and now `receive_ipc`, which are only called on the `cur_thread`. And that's easier to reason about than `sym_refs`.

Even so, it might be worth thinking about whether it's worth replacing the precondition. If not, consider whether `[wp]` is appropriate for such a strong precondition.

Finally, if we're committing to only calling `maybe_return_sc` on the `cur_thread`, why are we testing for this in the implementation? (As opposed to asserting it.)

Comment (mbrcknl) [reply proof/invariant-abstract/IpcDet_AI.thy:1233]: Also, I think this is obscure enough to warrant a comment on why this precondition is needed, especially if you don't change the precondition to `sym_refs`.

Also also, meaningful variable names (here and in some other lemmas).

**Comment by MitchellBuckley** [comment]
Thanks for all the comments @lsf37 and @mbrcknl!

File: proof/invariant-abstract/IpcDet_AI.thy (hunk 23 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/IpcDet_AI.thy:1233]: I like that `sym_refs` seems strong enough but it might be harder to use in proofs that use this wp rule.

I think the best option here is to remove `[wp]`, keep the existing precondition, and add some comments to explain. Sound ok?

Comment (mbrcknl) [reply proof/invariant-abstract/IpcDet_AI.thy:1233]: I was going to say you could use `heap_refs_retract_at`, but that won't be available in `IpcDet_AI`. :-(

I'll leave the decision to you, but I'm pretty sure you have all of `invs` at the point you need this, so I don't think `sym_refs` should cause any trouble.

I still think it would also be good to look into why the `reschedule_required` in `maybe_return_sc` is conditional on whether `thread` is the current thread. This lemma raises the question of whether we ever call it on anything other than the current thread. From what I can tell, we don't. In that case, the `thread = cur_thread s` could be an assertion instead of a precondition, and the `reschedule_required` could be unconditional. Refine will force us to (easily) prove the assertion, and we'll get the assurance that it's only called in the way we expect. I'll make a separate comment on that bit of the patch.

File: spec/abstract/SchedContext_A.thy [hunk 24]
```diff
@@ -423,7 +423,9 @@ where
     when (nsc_opt = tsc_opt \<and> nsc_opt \<noteq> None) $ do
       sc_ptr \<leftarrow> assert_opt nsc_opt;
       set_tcb_obj_ref tcb_sched_context_update tcb_ptr None;
-      set_sc_obj_ref sc_tcb_update sc_ptr None
+      set_sc_obj_ref sc_tcb_update sc_ptr None;
+      ct \<leftarrow> gets cur_thread;
+      when (tcb_ptr = ct) reschedule_required
```
Comment (mbrcknl) [inline spec/abstract/SchedContext_A.thy:428]: As far as I can tell, we only ever call this on the current thread. Can we make the `reschedule_required` unconditional, and turn this check into an assertion instead?

**Review by mbrcknl — APPROVED** [review]

File: proof/invariant-abstract/IpcDet_AI.thy (hunk 23 above)
Comment (mbrcknl) [reply proof/invariant-abstract/IpcDet_AI.thy:1233]: Oh, and don't forget to give things names that are somewhat more meaningful than `y`! :-)

Comment (MitchellBuckley) [reply proof/invariant-abstract/IpcDet_AI.thy:1233]: Thanks! You're right on both counts: the check is not needed at all and replacing the precondition with sym_refs seems to work just fine.

**Review by mbrcknl — APPROVED** [review]
👍  to updates.

Also, 👍  to updating pull requests by adding new commits, like I think you did here. It makes it much easier to see what was updated since last review, especially since GitHub has some nice UI for that. It's still fine to squash just before you merge, of course.
